US08871753B2
Step A: 4-(2-Bromo-4-nitrophenyl)morpholine
A solution of 2-bromo-1-fluoro-4-nitrobenzene (0.94 g, 4.3 mmol) in N,N-dimethylformamide (10 mL) was treated with potassium carbonate (1.5 g, 11 mmol) followed by morpholine (0.56 mL, 6.4 mmol) and stirred at 20° C. for 3 h. The reaction mixture was diluted with sodium bicarbonate and extracted with ethyl acetate. The organic layer was separated, dried over anhydrous sodium sulfate, filtered, and evaporated to give the desired product (1.0 g, quantitative) which was used without further purification.

reactant | 2-bromo-1-fluoro-4-nitrobenzene | 4.3 mmol, 0.94 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | potassium carbonate | 11 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 6.4 mmol, 0.56 mL | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-(2-Bromo-4-nitrophenyl)morpholine | 1.0 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])N1CCOCC1 | C10H11BrN2O3
